US09315521B2
To a 0° C. solution of 2-chloropyridine-3-carbaldehyde (2.0 g, 14.1 mmol) in anhydrous methanol (80 mL) was added sodium borohydride (550 mg, 14.5 mmol). The reaction mixture was stirred at room temperature for 3 hours. Saturated ammonium chloride solution (20 mL) was added. The resultant mixture was extracted with dichloromethane (3×20 mL). The organic extracts were combined, dried over MgSO4, filtered, evaporated, and dried in vacuo, affording (2-chloropyridin-3-yl)methanol (800 mg, 40% yield). The product was used without further purification.

reactant | 2-chloropyridine-3-carbaldehyde | 14.1 mmol, 2.0 g | ClC1=NC=CC=C1C=O | C6H4ClNO
reactant | sodium borohydride | 14.5 mmol, 550 mg | [BH4-].[Na+]
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | methanol | 80 mL | CO | CH4O
product | (2-chloropyridin-3-yl)methanol | 800 mg, 40% yield | ClC1=NC=CC=C1CO | C6H6ClNO
